US04018802
Step D. Preparation of ethyl 5-carboxy-9-acetoxytetradecyloxyacetate
This compound is prepared essentially by the method described in Example 1, Step D except that the di-tert.-butyl 2-(4-acetoxynonyl)-2-(6-ethoxycarbonylhexyl)-malonate of the example is replaced by di-tert.-butyl 2-(4-acetoxynonyl)-2-[4-(ethoxycarbonylmethoxy)-butyl]malonate. The title compound is purified by column chromatography on silica gel.

reactant | di-tert.-butyl 2-(4-acetoxynonyl)-2-(6-ethoxycarbonylhexyl)-malonate | C(C)(=O)OC(CCCC(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)CCCCCCC(=O)OCC)CCCCC | C31H56O8
reactant | di-tert.-butyl 2-(4-acetoxynonyl)-2-[4-(ethoxycarbonylmethoxy)-butyl]malonate | C(C)(=O)OC(CCCC(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)CCCCOCC(=O)OCC)CCCCC | C30H54O9
product | ethyl 5-carboxy-9-acetoxytetradecyloxyacetate | C(=O)(O)C(CCCCOCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C21H38O7
